US04294960
Triethylamine (3.41 g.), N,N-dimethylphenylamine (10.3 g.) and trimethylchlorosilan (5.64 g.) were added to a stirred solution of 7-phenylacetamido-3-tosyloxy-3-cephem-4-carboxylic acid (15 g.) in methylene chloride (150 ml.) at room temperature in turn, and the solution was stirred at room temperature for an hour. Phosphorus pentachloride (7.03 g.) was added to the solution at -35° C. and stirred at -25° to -20° C. for 1.5 hours. Methanol (61 ml.) was added to the solution and stirred at the same temperature for 40 minutes. To the resultant solution was added water (50 ml.) at -20° to -10° C. The organic layer was separated and washed with water twice. The aqueous layer and the washings were combined, and washed with methylene chloride twice and diethyl ether in turn. After the solution was adjusted to pH 4.7 with 10% aqueous sodium hydroxide under cooling, the precipitates were collected by filtration, washed with water, acetone and diethyl ether in turn, and then dried over phosphorus pentoxide to give 7-amino-3-tosyloxy-3-cephem-4-carboxylic acid (5.01 g.), mp 172° C. (dec.).

reactant | N,N-dimethylphenylamine | 10.3 g | CN(C)C1=CC=CC=C1 | C8H11N
reactant | trimethylchlorosilan | 5.64 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | 7-phenylacetamido-3-tosyloxy-3-cephem-4-carboxylic acid | 15 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)O)C1=O | C22H20N2O7S2
reactant | Phosphorus pentachloride | 7.03 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | Methanol | 61 ml | CO | CH4O
solvent | Triethylamine | 3.41 g | C(C)N(CC)CC | C6H15N
product | 7-amino-3-tosyloxy-3-cephem-4-carboxylic acid | 5.01 g | NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)O)C1=O | C14H14N2O6S2
